US05877199
tert-Butyl (9-benzyl-1-methylthiocarbazol-2-yl)hydroxyacetate
0.47 ml of a 1.0M solution of lithium hexamethyldisilazide in tetrahydrofuran was added, with ice-cooling, to a solution of 65 mg of tert-butyl (9-benzyl-1-methylthiocarbazol-2-yl)acetate, as obtained in Example 4, in 5 ml of tetrahydrofuran. The reaction mixture was then stirred for 1 hour in the presence of atmospheric oxygen. After this time, a saturated aqueous solution of ammonium chloride was added to the reaction mixture. The aqueous layer was extracted with ethyl acetate and the organic extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 1.5 g of silica gel with a 3:1 v/v mixture of hexane and ethyl acetate as the eluent, to yield 43 mg of the title compound as an oil.

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | tert-butyl (9-benzyl-1-methylthiocarbazol-2-yl)acetate | 65 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)SC)CC(=O)OC(C)(C)C | C26H27NO2S
reactant | oxygen | O=O | O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl (9-benzyl-1-methylthiocarbazol-2-yl)hydroxyacetate | 43 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC(=C(C12)SC)C(C(=O)OC(C)(C)C)O | C26H27NO3S
